US04829076
2,6-Dimethyl-3,5-bis(methoxycarbonyl)-4-(3-trifluoroacetamidophenyl)-1,4-dihydropyridine
A mixture of 630 mg (2 mmoles) of 4-(3-amino-phenyl)-2,6-dimethyl-3,5-bis(methoxycarbonyl)-1,4-dihydropyridine, 420 mg (4 mmoles) of trifluoroacetic anhydride and 0.18 g (23 mmoles) of pyridine is stirred between 5° and 10° C., then 2.3 ml of pyridine are added drop-wise during 25 minutes. Stirring is continued at room temperature for 24 hours. The reaction mixture is thereafter processed as described in Example 1. Yield 285 mg (35%), m. p. 231°-2° C. (ethanol).

reactant | 4-(3-amino-phenyl)-2,6-dimethyl-3,5-bis(methoxycarbonyl)-1,4-dihydropyridine | 2 mmoles, 630 mg | NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H20N2O4
reactant | trifluoroacetic anhydride | 4 mmoles, 420 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 23 mmoles, 0.18 g | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 2,6-Dimethyl-3,5-bis(methoxycarbonyl)-4-(3-trifluoroacetamidophenyl)-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)NC(C(F)(F)F)=O)C(=O)OC)C | C19H19F3N2O5
